*****************************************************************
* NXP PSMN4R4-30MLC
*
* Polarity N-Channel
* Ratings 30V/4.650000E-003OHMS/70A
*
* Date Created Tue Jun 12 05:47:09 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R4-30MLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 3.4e-10
RLS2 SOURCE 8 0.854513201776424
RLS1 8 7 0.00029

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00313460533295954 TC=0.00520990778971568,5.59251461297484E-06
RBD 9 4 0.00139390723765502 TC=0.00520990778971568,5.59251461297484E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.26328536781867e-09
RG 1 2 1.78843376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	29.7
+ -16	139.37
+ -10	160.432
+ -5	192.23
+ -4	204.736
+ -3	222.398
+ -2	268.866
+ -1	322.044
+ -0.5	386.166
+ -0.2	449.779
+ -0.1	508.702
+ 0	505.3305
+ 0.1	503.54
+ 0.2	439.983
+ 0.5	370.426
+ 1	298.083
+ 2	231.314
+ 3	201.291
+ 4	182.41
+ 5	169.26
+ 6	159.583
+ 8	145.419
+ 10	136.023
+ 12	129.543
+ 15	122.411
+ 20	114.069



.MODEL MINT NMOS(Vto=2.2807211576326 Kp=2.2028184e+002 Nfs=480000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=4.964600926979869e-13
+ N=1 M=0.730000000000001 VJ=0.99 Fc=0.5 Cjo=1.547075e-09 Tt=1.828536e-08)

.ENDS

